US04772600
2-(4-Chlorophenyl)-N-[2-(dimethylamino)ethyl]-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride [1:2]
2-(4-Chlorophenyl)-N-[2-(dimethylamino)ethyl]-3H-imidazo[4,5-b]pyridine-3-acetamide (0.5 g, 0.0014 mole) was dissolved in acetone, acidified with ethanolic hydrogen chloride, and seeded to initiate crystallization. The solid was collected by filtration, washed with diethyl ether, and dried under high vacuum at room temperature overnight to give 0.60 g (quantitative yield), m.p. 222°-25° C.

reactant | 2-(4-Chlorophenyl)-N-[2-(dimethylamino)ethyl]-3H-imidazo[4,5-b]pyridine-3-acetamide | 0.0014 mole, 0.5 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NCCN(C)C | C18H20ClN5O
reactant | hydrogen chloride | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
product | 2-(4-Chlorophenyl)-N-[2-(dimethylamino)ethyl]-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride | quantitative yield | Cl.ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NCCN(C)C | InChI=1S/C18H20ClN5O.ClH/c1-23(2)11-10-20-16(25)12-24-17(13-5-7-14(19)8-6-13)22-15-4-3-9-21-18(15)24;/h3-9H,10-12H2,1-2H3,(H,20,25);1H
